US05834491
1,1'-(1,12-dodecanediyl)bis(5-phenyl-2(1H)-pyridinimine) dihydrobromide
The procedure is as before, with dibromododecane and 2-amino-5-phenylpyridine. The product obtained is purified by recrystallization in methanol. Its m.p.=185° C.

reactant | dibromododecane | BrC(CCCCCCCCCCC)Br | C12H24Br2
reactant | 2-amino-5-phenylpyridine | NC1=NC=C(C=C1)C1=CC=CC=C1 | C11H10N2
product | 1,1'-(1,12-dodecanediyl)bis(5-phenyl-2(1H)-pyridinimine) dihydrobromide | Br.Br.C(CCCCCCCCCCCN1C(C=CC(=C1)C1=CC=CC=C1)=N)N1C(C=CC(=C1)C1=CC=CC=C1)=N | InChI=1S/C34H42N4.2BrH/c35-33-23-21-31(29-17-11-9-12-18-29)27-37(33)25-15-7-5-3-1-2-4-6-8-16-26-38-28-32(22-24-34(38)36)30-19-13-10-14-20-30;;/h9-14,17-24,27-28,35-36H,1-8,15-16,25-26H2;2*1H
